US06995157B2
a) 2-(N-methyl-N-(methoxycarbonyl)-amino)-4′-chloroacetophenone hydrazone
101 g (418 mmol) of 2-(N-methyl-N-(methoxycarbonyl)-amino)-4′-chloroacetophenone was dissolved in 600 ml of warm 1-propanol. To this mixture was added 4.85 g (80 mmol) of acetic acid and 60.9 g (1218 mmol) of hydrazine monohydrate. The mixture was refluxed for two hours and then concentrated in vacuo. The residue was dissolved in ethyl acetate and washed with water and saturated aqueous sodium chloride. After drying over magnesium sulfate, filtering, and reconcentrating in vacuo, there was obtained 75.6 g of the title compound, an oil.

reactant | 2-(N-methyl-N-(methoxycarbonyl)-amino)-4′-chloroacetophenone | 418 mmol, 101 g | CN(C(=O)OC)CC(=O)C1=CC=C(C=C1)Cl | C11H12ClNO3
reactant | acetic acid | 80 mmol, 4.85 g | C(C)(=O)O | C2H4O2
reactant | hydrazine monohydrate | 1218 mmol, 60.9 g | O.NN
solvent | 1-propanol | 600 ml | C(CC)O | C3H8O
product | 2-(N-methyl-N-(methoxycarbonyl)-amino)-4′-chloroacetophenone hydrazone | 75.6 g | CN(C(=O)OC)CC(C1=CC=C(C=C1)Cl)=NN | C11H14ClN3O2
